US07837980B2
The generation of cAC10 ADCs with two and four MMAE molecules per antibody involved a partial reduction followed by reaction with Val-Cit-MMAE. The antibody cAC10 (10 mg/ml) was partially reduced by addition of DTT to a final DTT:mAb molar ratio of 3.0 followed by incubation at 37° C. for ˜2 h. The reduction reaction was then chilled to ˜10° C. and the reduced cAC10 purified away from excess DTT via diafiltration. Following diafiltration, the thiol concentration in the partially-reduced cAC10 was determined by the DTNB (Ellman's) assay; in this manner, an average of about 2 disulfide bonds were reduced, thus exposing about 4 reduced Cys:mAb. To conjugate all of the reduced Cys, Val-Cit-cMMAE was added to a final Val-Cit-MMAE:reduced Cys molar ratio of about 1.15. The conjugation reaction was carried out in the presence of 15% v/v of DMSO and allowed to proceed at about 10° C. for about 30 min. Following the conjugation reaction, excess free Cys (2 moles of Cys per mole of Val-Cit-MMAE) was added to quench unreacted Val-Cit-MMAE to produce the Cys-Val-Cit-MMAE adduct. The Cys quenching reaction was allowed to proceed at about 10° C. for about 30 min. The Cys-quenched reaction mixture was purified and buffer-exchanged into PBS by diafiltration to obtain the partially loaded cAC10-Val-Cit-MMAE.

reactant | MMAE | CC[C@H](C)[C@@H]([C@@H](CC(=O)N1CCC[C@H]1[C@@H]([C@@H](C)C(=O)N[C@H](C)[C@H](C=2C=CC=CC2)O)OC)OC)N(C)C(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)N(C)C(=O)OCC=3C=CC(=CC3)NC(=O)[C@H](CCCNC(=O)N)NC(=O)[C@H](C(C)C)NC(=O)CCCCCN4C(=O)C[CH]C4=O | C68H106N11O15
reactant | Val-Cit MMAE | N[C@@H](C(C)C)C(=O)N[C@@H](CCCNC(=O)N)C(=O)O.CC[C@H](C)[C@@H]([C@@H](CC(=O)N1CCC[C@H]1[C@@H]([C@@H](C)C(=O)N[C@H](C)[C@H](C=2C=CC=CC2)O)OC)OC)N(C)C(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)N(C)C(=O)OCC=3C=CC(=CC3)NC(=O)[C@H](CCCNC(=O)N)NC(=O)[C@H](C(C)C)NC(=O)CCCCCN4C(=O)C[CH]C4=O
reactant | DTT | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | Cys | 2 moles | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | DMSO | CS(=O)C | C2H6OS
product | Cys-Val-Cit MMAE | N[C@@H](CS)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCNC(=O)N)C(=O)O.CC[C@H](C)[C@@H]([C@@H](CC(=O)N1CCC[C@H]1[C@@H]([C@@H](C)C(=O)N[C@H](C)[C@H](C=2C=CC=CC2)O)OC)OC)N(C)C(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)N(C)C(=O)OCC=3C=CC(=CC3)NC(=O)[C@H](CCCNC(=O)N)NC(=O)[C@H](C(C)C)NC(=O)CCCCCN4C(=O)C[CH]C4=O | InChI=1S/C68H106N11O15.C14H27N5O5S/c1-15-43(8)59(51(92-13)38-55(83)78-37-23-27-50(78)61(93-14)44(9)62(85)71-45(10)60(84)47-24-18-16-19-25-47)76(11)66(89)57(41(4)5)75-65(88)58(42(6)7)77(12)68(91)94-39-46-29-31-48(32-30-46)72-63(86)49(26-22-35-70-67(69)90)73-64(87)56(40(2)3)74-52(80)28-20-17-21-36-79-53(81)33-34-54(79)82;1-7(2)10(19-11(20)8(15)6-25)12(21)18-9(13(22)23)4-3-5-17-14(16)24/h16,18-19,24-25,29-33,40-45,49-51,56-61,84H,15,17,20-23,26-28,34-39H2,1-14H3,(H,71,85)(H,72,86)(H,73,87)(H,74,80)(H,75,88)(H3,69,70,90);7-10,25H,3-6,15H2,1-2H3,(H,18,21)(H,19,20)(H,22,23)(H3,16,17,24)/t43-,44+,45+,49-,50-,51+,56-,57-,58-,59-,60+,61+;8-,9-,10-/m00/s1
